US08008505B2
66.2 [rac]-4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethanesulfonyl}-benzoic acid
To a stirred solution of [rac]-4-{2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethanesulfonyl}-benzoic acid methyl ester (40 mg, 0.076 mmol) in MeOH (5 ml) was added NaOH (5.18 mg, 0.129 mmol) in water (2 ml) dropwise at 0° C. The reaction mixture was then stirred at 25° C. for 14 h. After the completion of the reaction (monitored through TLC), MeOH was concentrated in vacuo, diluted with H2O (5 ml) and the aqueous layer was acidified (pH ˜2-3) with 2 N HCl, and then extracted with EtOAc (3×5 ml). Combined organic layers were washed with brine (10 ml) and finally dried over Na2SO4. Organic layer was distilled under reduced pressure to get crude title compound (32 mg). Purification was done by column chromatography over silica gel (230-400 mesh; 2% MeOH/DCM) to give the title compound (18 mg, 47.1%) as an off white solid. MS: m/e=527.2 [M+H+].

reactant | [rac]-4-{2-[2-(4-chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethanesulfonyl}-benzoic acid methyl ester | 0.076 mmol, 40 mg | COC(C1=CC=C(C=C1)S(=O)(=O)CC(C1CCCCC1)C=1N(N=C2CCCCC12)C1=CC=C(C=C1)Cl)=O | C29H33ClN2O4S
reactant | NaOH | 0.129 mmol, 5.18 mg | [OH-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | [rac]-4-{2-[2-(4-Chloro-phenyl)-4,5,6,7-tetrahydro-2H-indazol-3-yl]-2-cyclohexyl-ethanesulfonyl}-benzoic acid | 18 mg, 47.1% | ClC1=CC=C(C=C1)N1N=C2CCCCC2=C1C(CS(=O)(=O)C1=CC=C(C(=O)O)C=C1)C1CCCCC1 | C28H31ClN2O4S
